USRE029439
A mixture of 3-(p-chlorophenyl)-5-mercapto-1,2,4-oxadiazole (106 parts), chloroacetic acid (48 parts), potassium carbonate (75 parts) and water (100 parts) was heated at reflux for one hour. The solution was filtered hot, cooled, acidified and the solid separated to give [3-(p-chlorophenyl)-1,2,4-oxadiazol-5-ylthio]acetic acid (91 parts, 67% yield), melting point 112°-114° C. (as monohydrate).

reactant | 3-(p-chlorophenyl)-5-mercapto-1,2,4-oxadiazole | ClC1=CC=C(C=C1)C1=NOC(=N1)S | C8H5ClN2OS
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | [3-(p-chlorophenyl)-1,2,4-oxadiazol-5-ylthio]acetic acid | 67% yield | ClC1=CC=C(C=C1)C1=NOC(=N1)SCC(=O)O | C10H7ClN2O3S
